US07932251B2
6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (1.4 g), 4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenylboronic acid (2.2 g), tris(dibenzylideneacetone)dipalladium (0.25 g), tricyclohexylphosphine (0.18 g) and potassium phosphate (2 g) were added to dioxane (20 ml) and water (6 ml) and the mixture was heated to reflux under nitrogen for two hours. The reaction mixture was diluted with EtOAc (200 mL), filtered through celite, and washed with water (150 mL). Organic layer was dried over sodium sulphate and solvent was evaporated under reduced pressure. The crude product was purified by flash chromatography using EtOAc:Heptane as eluant to yield 6-[4-(3-hydroxypropoxy)-3-(trifluoromethyl)-phenyl]-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (1.5 g).

reactant | 6-Chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 1.4 g | ClC1=CC2=C(C(=N1)C#N)N=CN2C2OCCCC2 | C12H11ClN4O
reactant | 4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenylboronic acid | 2.2 g | OCCCOC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C10H12BF3O4
reactant | tricyclohexylphosphine | 0.18 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.25 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 6 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 6-[4-(3-hydroxypropoxy)-3-(trifluoromethyl)-phenyl]-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 1.5 g | OCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C2OCCCC2)C(F)(F)F | C22H21F3N4O3
